US09422244B2
3.0 g (1 mol equiv.) 4,4-Dimethyl-4,5-dihydro-3H-pyrazole (synthesized as described in WO 2008/034863) and 5.6 mL (1.3 mol equiv.) trimethylsilyl isothiocyanate were added to 30 mL ethanol and the reaction mixture was refluxed for 5 hours. Silica gel was added and volatiles were removed under reduced pressure. Purification by flash chromatography on silica gel (Et2O:PA=2:1) afforded 3.91 g (81%) 4,4-dimethyl-4,5-dihydro-pyrazole-1-carbothioic acid amide. 1H NMR (400 MHz, CDCl3) δ 1.27 (s, 6H), 3.94 (s, 2H), 5.82-6.34 (br.s., 1H), 6.50-7.00 (br.s., 1H), 6.80 (s, 1H).

reactant | 4,4-Dimethyl-4,5-dihydro-3H-pyrazole | 1 mol, 3.0 g | CC1(CN=NC1)C | C5H10N2
reactant | trimethylsilyl isothiocyanate | 1.3 mol, 5.6 mL | C[Si](C)(C)N=C=S | C4H9NSSi
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4,4-dimethyl-4,5-dihydro-pyrazole-1-carbothioic acid amide | 3.91 g, 81% | CC1(C=NN(C1)C(N)=S)C | C6H11N3S
